US06951879B2
To 45 mg (0.09 mmol) Phosphoric acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-1,1-dimethyl-prop-2-ynyl ester diethyl ester and 16 μl (0.18 mmol) 2-Ethylaminoethanol in 0.5 ml THF 10.2 mg (0.01 mmol) tetrakis(triphenylphosphine)palladium was added and the suspension stirred at 50° C. over night. The mixture was added to a saturated aqueous solution of NaHCO3 and EtOAc, the phases were separated and the inorganic one was extracted with EtOAc. The combined organic phases were washed with brine and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2:MeOH 95:5 gave 2-((3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6 yl]-1,1-dimethyl-prop-2-ynyl)-ethyl-amino)-ethanol as yellow semisolid, MS: 443 (MH+, 1Br).

reactant | Phosphoric acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-1,1-dimethyl-prop-2-ynyl ester diethyl ester | 0.09 mmol, 45 mg | C(C)OP(OC(C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1)(C)C)(OCC)=O | C22H23BrNO4PS
reactant | 2-Ethylaminoethanol | 0.18 mmol, 16 μl | C(C)NCCO | C4H11NO
reactant | THF | 0.01 mmol, 0.5 ml, 10.2 mg | C1CCOC1 | C4H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6 yl]-1,1-dimethyl-prop-2-ynyl)-ethyl-amino)-ethanol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CC(C)(C)N(CCO)CC | C22H23BrN2OS
